US06350749B1
A mixture of 5-phenylcyclohexane-1,3-dione (15.0 g), 2-aminoethanol (6.3 g), molecular sieves 4A (100 g) and tetrahydrofuran (200 ml) was refluxed for 12 hours and cooled, and insoluble materials were filtered off. Under reduced pressure, the solvent was evaporated to give oil, which was dissolved in dimethylformamide (5 ml). To the solution were added 2-bromomesitylene (0.20 g), tetrakistriphenylphosphine palladium (30 mg) and potassium carbonate (0.28 g), and the mixture was stirred at 150° C. for 2 hours and concentrated under reduced pressure. The residue was dissolved in ethyl acetate, and the solution was washed with sodium hydrogen carbonate solution, water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (EtOAc/hexane) to give colorless crystals of 6-phenyl-4,5,6,7-tetrahydroindol-4-one (0.11 g).

reactant | 5-phenylcyclohexane-1,3-dione | 15.0 g | C1(=CC=CC=C1)C1CC(CC(C1)=O)=O | C12H12O2
reactant | 2-aminoethanol | 6.3 g | NCCO | C2H7NO
reactant | 2-bromomesitylene | 0.20 g | BrC1=C(C=C(C=C1C)C)C | C9H11Br
reactant | potassium carbonate | 0.28 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 6-phenyl-4,5,6,7-tetrahydroindol-4-one | 0.11 g | C1(=CC=CC=C1)C1CC(C=2C=CNC2C1)=O | C14H13NO
